US06310099B1
To a mixture of 7.0 g (0.045 mol) of 3-fluoro-4-nitrophenol and 6.7 g (0.067 mol) of triethylamine in 20 ml of methylene chloride cooled to 0° is added 6.5 g (0.054 mol) of pivaloyl chloride in a dropwise manner. The reaction is allowed to warm to room temperature and stirred overnight. The reaction is quenched with water and extracted with ethyl acetate. The organic layer is washed successively with 1 N hydrochloric acid, saturated aqueous sodium bicarbonate, and saturated brine, and then dried over magnesium sulfate. Filtration and removal of the solvents gives crude 2-fluoro-4-pivaloyloxy-nitrobenzene which is dissolved in 200 ml of absolute ethanol. To the solution is added 0.9 g of 5% palladium on carbon, and the mixture is then hydrogenated under 30 psi hydrogen for two hours. The catalyst is filtered and the solvent removed to give 2-fluoro-4-pivaloyloxyaniline.

reactant | 3-fluoro-4-nitrophenol | 0.045 mol, 7.0 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | triethylamine | 0.067 mol, 6.7 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.054 mol, 6.5 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-fluoro-4-pivaloyloxy-nitrobenzene | FC1=C(C=CC(=C1)OC(C(C)(C)C)=O)[N+](=O)[O-] | C11H12FNO4
